US05476661
Synthesis of N-(2,3-dihydroxypropyl)-N-(hexadecyl)hexanamide (Neoceramide of Formula G)
Hexanoyl chloride (2.65g, 19.7 mmoles) was added dropwise to a reactor containing N-(2,3-dihydroxypropyl)-hexadecylamine (2.65g, 19.7 mmoles)in 8 mL of chloroform. The reaction was stirred for 16 hours at room temperature. When the reaction was completed, the mixture was concentrated, ethanol and water was added, and the pH of the reaction was adjusted to 14. This mixture was extracted with chloroform, and organic layer was collected and concentrated. The crude sample was purified on silica column chromatography to give 1.56 g of product.

reactant | Hexanoyl chloride | 19.7 mmoles, 2.65g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | N-(2,3-dihydroxypropyl)-hexadecylamine | 19.7 mmoles, 2.65g | OC(CNCCCCCCCCCCCCCCCC)CO | C19H41NO2
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(2,3-dihydroxypropyl)-N-(hexadecyl)hexanamide | 1.56 g | OC(CN(C(CCCCC)=O)CCCCCCCCCCCCCCCC)CO | C25H51NO3
